US06653334B1
Synthesis of Ethyl 2-[3-[2-(N-Benzoxazol-2-yl)aminoethyl]phenoxy]-2-methylpropionate
Ethyl 2-[3-(2-aminoethyl)phenoxy]-2-methylpropionate (1.1 g, 4.38 mmol) was dissolved in tetrahydrofuran (22 mL). Subsequently, diisopropylethylamine (1.14 mL, 6.57 mmol) and then 2-chlorobenzoxazole (611 mL, 5.26 mmol) were added thereto, and the mixture was stirred under argon atmosphere for 14 hours at room temperature. Ethyl acetate was added to the reaction mixture. Washing was performed sequentially with water and saturated brine, followed by drying over sodium sulfate. Thereafter, the reaction mixture was subjected to filtration, concentration under reduced pressure, and purification by silica gel column chromatography (n-hexane/ethyl acetate=10/1), whereby the target compound was obtained (900 mg, 2.44 mmol, 55.8%).

reactant | Ethyl 2-[3-(2-aminoethyl)phenoxy]-2-methylpropionate | 4.38 mmol, 1.1 g | NCCC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C14H21NO3
reactant | diisopropylethylamine | 6.57 mmol, 1.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chlorobenzoxazole | 5.26 mmol, 611 mL | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
product | Ethyl 2-[3-[2-(N-Benzoxazol-2-yl)aminoethyl]phenoxy]-2-methylpropionate | O1C(=NC2=C1C=CC=C2)NCCC=2C=C(OC(C(=O)OCC)(C)C)C=CC2 | C21H24N2O4
